US07482341B2
Step A]: N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide
This material was prepared in analogy to example 86 step A] from N-(6-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.73 g) and 3-fluorobenzyl bromide as a yellow solid(0.66 g). MS (ESI): 317.1 (MH+).

reactant | N-(6-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.73 g | OCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H16N2O2
reactant | 3-fluorobenzyl bromide | 0.66 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide | FC=1C=C(COCC2=CC=CC(=N2)NC(C(C)(C)C)=O)C=CC1 | C18H21FN2O2
